US04766152
(a) Preparation of 4-phenoxyphenoxyacetaldehyde diethyl acetal
150 g of potassium carbonate and 4 g of finely powdered potassium iodide are added to a solution of 112 g (0.6 mole) of 4-phenoxyphenol and 157.6 g (0.8 mole) of bromoacetaldehyde diethyl acetal in 480 ml of dimethylformamide, and the batch is heated, under nitrogen, for 14 hours at 150° C. The salts are then removed by filtration from the reaction solution, and most of the dimethylformamide is distilled off in a water jet vacuum. The residue is dissolved in ether and the resultant solution is washed twice with water, three times with 20% potassium hydroxide solution and again with water. The ethereal solution is then dried over sodium sulfate and the ether is distilled off entirely. The resultant 4-phenoxyphenoxyacetaldehyde diethyl acetal is used without further purification for the preparation of the free aldehyde.

reactant | potassium carbonate | 150 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 4-phenoxyphenol | 0.6 mole, 112 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | bromoacetaldehyde diethyl acetal | 0.8 mole, 157.6 g | C(C)OC(CBr)OCC | C6H13BrO2
solvent | dimethylformamide | 480 ml | CN(C=O)C | C3H7NO
product | 4-phenoxyphenoxyacetaldehyde diethyl acetal | C(C)OC(COC1=CC=C(C=C1)OC1=CC=CC=C1)OCC | C18H22O4
